US07423052B2
Description 110 (RS)-3-[2-(4-Fluorophenyl)-2-oxo-ethoxycarbonylmethyl]piperazine-1-carboxylic acid tert-butyl ester
(RS)-2-Carboxymethylpiperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(9H-fluoren-9-ylmethyl) ester from description 109 (2.0 g) was dissolved in DMF (25 ml) and stirred at room temperature under argon for 3 days in the presence of potassium carbonate (0.697 g) and 2-bromo-4′-fluoroacetophenone (0.930 g). The reaction solution was then partitioned between ethyl acetate and water the organic solution was washed with brine, dried (MgSO4) and evaporated. The crude product was chromatographed over silica gel, eluting with 25 to 100% ethyl acetate in hexane, followed by 10% ethanol in ethyl acetate. The title compound was obtained as a pale yellow solid (0.887 g), mass spectrum (API+) 381 [MH+], C19H25FN2O5 requires 380.

reactant | (RS)-2-Carboxymethylpiperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(9H-fluoren-9-ylmethyl) ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CC(=O)O | C26H30N2O6
reactant | potassium carbonate | 0.697 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-4′-fluoroacetophenone | 0.930 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | (RS)-3-[2-(4-Fluorophenyl)-2-oxo-ethoxycarbonylmethyl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(NCC1)CC(=O)OCC(=O)C1=CC=C(C=C1)F | C19H25FN2O5
